US09428528B2
Step 4 Preparation of (4S,5R)-5-[4-(6-Ethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester
To a stirred solution of (4S,5R)-5-[4-(6-Ethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylicacid tert-butyl ester (0.21 g, 0.459 mmol) in dry tetrahydrofuran (5.25 mL) is added 2 M toluene solution of BH3.dimethylsulfide (0.104 g, 1.378 mmol) at 0° C. Reaction heated to 65° C. for 16 hours. Quenched with Methanol (2 mL). Volatiles were removed under reduced pressure to obtain crude material purified by column chromatography eluting in 6 methanol in CH2Cl2 to afford title compound (0.05 g): 1H-NMR (400 MHz, DMSO-d6): δ: 1.09 (t, 3H, J=7.15 Hz), 1.43 (s, 9H), 1.51 (s, 3H), 1.63 (s, 3H), 3.15 (m, 2H), 3.82-3.89 (m, 2H), 3.95 (s, 2H), 4.10 (m, 1H), 4.45-4.55 (m, 2H), 5.12 (d, 1H, J=7.24 Hz), 7.52 (d, 1H, J=8.20 Hz), 7.57 (d, 2H, J=8.20 Hz), 7.75 (d, 2H, J=8.24 Hz), 8.09 (dd, 1H, J=7.88 Hz, J=2.08 Hz), 8.84 (d, 1H, J=1.92 Hz). LC-MS (m/z): [M+H]=444.

reactant | (4S,5R)-5-[4-(6-Ethylcarbamoyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylicacid tert-butyl ester | 0.459 mmol, 0.21 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C(NCC)=O)(C)C | C25H32FN3O4
reactant | toluene | 2 M | C1(=CC=CC=C1)C | C7H8
reactant | dimethylsulfide | 1.378 mmol, 0.104 g | CSC | C2H6S
solvent | tetrahydrofuran | 5.25 mL | O1CCCC1 | C4H8O
product | (4S,5R)-5-[4-(6-Ethylaminomethyl-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.05 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)CNCC)(C)C | C25H34FN3O3
